US09359367B2
Step 2: 4-(4-(4-chlorophenyl)piperazin-1-yl)butanenitrile
To a solution of 4-bromobutanenitrile (1.50 g, 10.17 mmol) in dimethyl formamide (20 ml) were added 1-(4-chlorophenyl)piperazine (2.0 g, 10.17 mmol) and potassium carbonate (2.81 g, 20.34 mmol) at room temperature and the reaction mixture was stirred for 3 h at same temperature. The progress of the reaction was monitored by TLC. The reaction mixture was diluted with water (50 ml) and the aqueous layer was extracted with ethyl acetate (3×50 ml). The combined organic layer was dried over anhydrous sodium sulphate. The solvent in the organic layer was removed under reduced pressure to obtain a crude product, which was purified by column chromatography over silica gel (100-200 mesh) using 10% ethyl acetate in hexane to yield the title compound (2.32 g, 86% yield).

reactant | 4-bromobutanenitrile | 10.17 mmol, 1.50 g | BrCCCC#N | C4H6BrN
reactant | 1-(4-chlorophenyl)piperazine | 10.17 mmol, 2.0 g | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | potassium carbonate | 20.34 mmol, 2.81 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 4-(4-(4-chlorophenyl)piperazin-1-yl)butanenitrile | 2.32 g, 86% yield | ClC1=CC=C(C=C1)N1CCN(CC1)CCCC#N | C14H18ClN3
